Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a a ___ M with history of ___ who presents 
with s/p fall. 

At the time of arrival to the floor Mr. ___ had received 
olanzapine X2 in the ED for unfear reasons and was unable to 
give a through history. However On ED evaluation the patient was 
noted to be conversant and reported remembering the fall and not 
hitting his head.

His daughter ___ (who ___ lives with ) was still at work and was 
unable to be reached (___)

This history was taken primarily by chart review and was 
verified with his ex-wife who ___ had been living with for the 
past week ___ (___.)

Per report from ___, Mr. ___ had been living with his 
daughter ___ since his last fall in ___. Mr. ___ lost the 
keys to his house and thus was living with ___ since around 
___. ___ has been working to try to get back into his 
house and made a plan to meet ___ at his house today.

Unfortunately, the patient went to go meet ___ at the house and 
then had a fall. ___ was brought to the ED for further 
evaluation. 

In regards to his living situation, the patient has had a 
decline of his ability to function over the last several months. 
___ lives on a ___ story apartment. Both his ex-wife and daughter 
are worried about his ability to function and to ambulate. ___ is 
noted on his outpatient records in ___ to have had many 
falls. 

The patient has been trying to avoid having to be admitted to an 
assisted living facility. H

___ was most recently evaluated in the inpatient setting in ___ 
after having had a fall and laceration of his head. On that 
admission, attempt was made to dispo patient to assisted living, 
however the patient did not want to do so at that time.

___ was discharged with ___ and his daughter moved in with him. 
However his daughter works full time and is unable to provide 
the help ___ needs.

___ saw his PCP in ___ recently, who was very concerned about 
patient fall risk despite maximal services and family support. 
recommending that the patient present to the BI ED for 
evaluation and likely admission to further coordinate his care. 
___ decline this at the time.

 

In regards to his parkinsons disease, ___ is followed by ___ 
for primary care with Dr. ___, MD and neurology 
for ___ with Dr. ___, MD.

___ last saw Dr. ___ on ___.

Of note ___ was noted to be having  a slow decline due to his 
___ disease over the past ___ ___ was first seen for 
extrapyramidal signs and symptoms in ___. At that time ___ had a 
classic rest tremor on the right side with associated with 
bradykinesia and rigidity. 

Brain imaging showed evidence of nonspecific T2 hyperintensities 
in the white matter and a workup at that time included 
unremarkable testing for the following: ___, Lyme testing, 
hemoglobin A1c, RPR, lupus anticoagulant, ALT, sedimentation 
rate, TSH, copper, ceruloplasmin. 

___ began levodopa in ___ to treat his symptoms. 

With this ___ had an improvement in his motor function.

On most recent visit with Dr. ___ was noted to be having 
increasing difficulty at work and is now on disability. 

___ reported that when ___ had been taking his levodopa with good 
response with some improvement but had been taking it somewhat 
erratically and not per exact schedule.

In addition, ___ reported having problems with visual 
hallucinations over the last ___ years. 

 ___ describes a figure of the corner of his vision, typically 
people that ___ knows. ___ recognizes that it is a hallucination 
with insight preserved and had  used Seroquel and felts that it 
helped reduce the hallucinations. 

In addition, the patient was noted the have had  increasing 
difficulty with flexed posture, balance, fluctuations in gait, 
and falls. 

___ denied problems with his memory as well as bladder frequency 
and nocturia and feels that his left leg is somewhat weak and 
this is been for about the last year or so and this gets worse 
at night. ___ feels that limits his ability to walk at nighttime. 
___ thinks it may be due to the parkinsonism. 

In addition, ___ is known to have had multiple multiple falls.

On last neurological exam, ___ was notice to have  a moderate 
stoop with slight lean and a tendency to flex forward when 
seated. ___ arises pushing off with his hands. Once his 
medication fully kicks in, ___ walks with a brisk gait, and 
decreased swing of the right arm and leg slightly. ___ 
retropulsive but recovers to pull testing.

At that time Dr. ___ that his clinical picture of 
difficulty ambulating was due to him taking his ___ 
medications erratically and recommended taking his Sinemet 
faithfully on a every 4 hours schedule.

Or his visual hallucinations, ___ felt that restarting Seroquel 
25 mg at nightly would be reasonable to see if it would help 
controls his hallucinations. 

In addition, on workup for other causes of dementia, ___ was 
found to be Vitamin B12 deficient. For this reason, ___ was 
started on Q weekly B12 injections.
 
Past Medical History:
Anemia, iron deficiency 
Hematuria 
Parkinsonism 
B12 deficiency anemia 
Fall 
 
Social History:
___
Family History:
 There is no family history of neurological disorder or 
___ disease. Coronary Artery Disease in his maternal 
grandmother; ___ Onset in his maternal grandmother 
and paternal grandmother; ___ in his maternal 
grandmother; ___ in his father; eczema in his mother.
 
Physical Exam:
Admission Exam:
===============
General: Appearing stated age
HEENT: NCAT, PEERL, MMM. EOMI.
Neck: Supple, trachea midline
Heart: RRR, no MRG. No peripheral edema. 
Lungs: CTAB. No wheezes, rales, or rhonchi.
Abd: Soft, NTND. 
GU: No CVA tenderness
MSK: No obvious limb deformities.
Derm: Skin warm and dry
Neuro: Awake, alert, moves all extremities.
Psych: Appropriate affect and behavior

Discharge Exam:
===============
98.4PO 114 / 71L Lying 72 16 99 Ra  
General: Appearing stated age, thin. Patient leans to the right
side when in his chair. 
HEENT: Pupils equal and reactive.
Neck: Supple, trachea midline
Heart: RRR, no MRG. No peripheral edema. 
Lungs: CTAB. No wheezes, rales, or rhon___.
Abd: Soft, NTND. 
GU: No CVA tenderness
MSK: No obvious limb deformities.
Derm: Skin warm and dry
Neuro: Awake, alert to person not to place, patient has a
preference to lean to the right side. Moves all extremities in
response to commands. 
 
Pertinent Results:
Admission labs:
===============

___ 05:50PM BLOOD WBC-6.4 RBC-4.07* Hgb-12.1* Hct-38.6* 
MCV-95 MCH-29.7 MCHC-31.3* RDW-13.0 RDWSD-44.9 Plt ___
___ 05:50PM BLOOD Neuts-69.3 ___ Monos-7.2 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-4.44 AbsLymp-1.38 AbsMono-0.46 
AbsEos-0.07 AbsBaso-0.03
___ 05:50PM BLOOD Glucose-88 UreaN-18 Creat-0.8 Na-148* 
K-4.4 Cl-109* HCO3-29 AnGap-10
___ 07:27AM BLOOD VitB12-239* Folate-19
___ 05:20PM BLOOD Calcium-9.5 Phos-3.9 Mg-2.1
___ 07:27AM BLOOD TSH-2.1

Imaging:
=========
CXR ___
IMPRESSION: 
No acute cardiopulmonary process
 
 
Brief Hospital Course:
Mr. ___ is a ___ man with parkinsonism since ___ , 
with progression in the last several years to include problems 
with motor function, balance, decline in cognition and visual 
hallucinations who was admitted after a fall. 

Acute Issues:
===========
___:
Patient ___ disease is followed by neurologist Dr. 
___, MD in ___ is noted to have had a rapid decline of 
his parkinsonian symptoms most notable his gait, stability and 
hallucinations. This is felt to be compounded with poor control 
of symptoms due to medication non adherence. ___ was continue 
Carbidopa-Levodopa (___) as follows, and should continue to 
follow with Dr. ___. 
-2 at 6 am 
-1 at 10 am
-1 at 2 pm 
-1 at 6 pm 
-1 at 10pm
 
#Fall
#Disposition:
Patient has been having recurrent falls likely secondary to his 
___ disease and gait instability. Has limited support at 
home and will require 24 hour care. No signs of infection, 
electrolyte abnormalities (mild hypernatremia now resolved). ___ 
has undergone extensive workup for alternative etiology of 
altered mental status with outpatient neurologist (Dr. ___ 
___ including B12 (found to be low), TSH (normal), RPR 
(negative), folic acid (normal). Patient had CT head on ___. 
Of note per neurologist MRI brain, cervical and thoracic spine 
to be obtained in outpatient setting to evaluate for progression 
of Parkinsons.
___ was placed in a ### for closer support.

Chronic Issues:
===============
#Nighttime hallucinations:
Patient with known nighttime hallucinations due to parkinsons.  
Continue Quetiapine 25mg QHS per outpatient Neurology 
recommendation. Can continue home Melatonin for sleep wake 
regulation. 

#B12 deficiency
Patient started on Qweekly B12 injections on ___
___ should continue oral B 12 untill follow up with PCP.

#Full code
#Contact: daughter ___ ___, ___ ex-wife 
___

Transitional issues:
====================
- Please obtain outpatient MRI brain, cervical and thoracic 
spine per Neurologist Dr. ___.
- Please monitor vitamin B12, ___ has been continued on oral B12 
supplementation. 
- Please ensure patient adheres to Carbidopa-Levodopa (___) 
as follows:
-2 at 6 am 
-1 at 10 am
-1 at 2 pm 
-1 at 6 pm 
-1 at 10pm

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa ___ TAB PO 5X/DAY 
2. Cyanocobalamin 1000 mcg IM/SC 1X/WEEK (___) 
3. QUEtiapine Fumarate 25 mg PO QHS 
4. melatonin 1 mg oral QHS 

 
Discharge Medications:
1.  Carbidopa-Levodopa (___) 2 TAB PO DAILY  
2.  Carbidopa-Levodopa (___) 1 TAB PO QID 
10am, 2pm, 6pm, 10pm   
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  melatonin 1 mg oral QHS  
5.  QUEtiapine Fumarate 25 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Fall
Parkinsons

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You had a fall

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We had physical therapy and occupational therapy see you and 
helped you find a safe place to live
- We checked your labs to make sure you did not have an 
infection or any other reason for your fall. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___